* source PREAMP-SRPP+-ECC88
V_V1         N14866 0 200Vdc
V_V2         N14657 0  AC 0.5V
+SIN 0V 0.5V 1kHz 0 0 0
R_R1         N14668 N14687  47k TC=0,0 
R_R2         0 N14668  1meg TC=0,0 
R_R3         0 N14691  200 TC=0,0 
R_R7         0 N14726  1000k TC=0,0 
C_C1         N17272 N14726  3.3u  TC=0,0 
C_C2         N14657 N14668  3.3u  TC=0,0 
R_R8         N14687 N14726  100k TC=0,0 
X_VL1         N14898 N17037 N14691 6DJ8
R_R9         N16186 N14726  470 TC=0,0 
R_R10         0 N16186  47k TC=0,0 
R_R11         N14687 N17037  47k TC=0,0 
R_R12         N14898 N17272  50.1 TC=0,0 
R_R13         N17272 N17276  150 TC=0,0 
X_VL2         N14866 N14898 N17276 6DJ8
